US04456618
To a solution of 0.9 g (3.49 mmol) of methyl 6-acetoxymethyl-2-naphthoate in 100 mL of MeOH was added 0.5 g (3.62 mmol) of K2CO3 and 1 mL of H2O. The mixture was stirred at room temperature for 30 min before being evaporated to dryness. The residue was taken up in 50 mL of EtOAc and 30 mL of H2O. The organic layer was dried (Na2SO4) and evaporated to give 0.76 g (100% yield) of methyl 6-hydroxymethyl-2-naphthoate as white crystals: mp 123°-124° C.; IR (mull) 3250, 1720, 1300, 1200, 1130, 1100, 1040, 1020, 920, 900, 840, 820, 760 cm-1 ; 1H NMR (CDCl3) δ2.13 (s, 1, OH), 3.98 (s, 3, CO2CH3), 4.88 (s, 2, CH2OH), 7.3-8.7 (m, 6, ArH); MS calcd for C13H12O3 216.0786, found 216.0787.

reactant | methyl 6-acetoxymethyl-2-naphthoate | 3.49 mmol, 0.9 g | C(C)(=O)OCC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C15H14O4
reactant | K2CO3 | 3.62 mmol, 0.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 1 mL | O | H2O
solvent | MeOH | 100 mL | CO | CH4O
product | methyl 6-hydroxymethyl-2-naphthoate | 0.76 g, 100% yield | OCC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C13H12O3
